US04608390
a. Z-6-(2-naphthyl)hex-5-enoic acid
Triphenyl (5-carboxypentyl)phosphonium bromide (937 mg, 2.1 mmole) and 2-napthaldehyde (300 mg, 1.92 mmole) were dissolved in DMSO (50 mL, freshly distilled from CaH2) and potassium t-butoxide (540 mg, 4.8 mmole) was added. After stirring for 30 minutes the reaction was quenched with saturated NH4Cl solution (25 mL) and poured into ether. The ether layer was dried with saturated NaCl and MgSO4 and the solvent was evaporated. The resulting 1:1 mixture E/Z isomers were separated with flash chromatography eluting with ether/hexane/formic acid (10:89:1).

reactant | Triphenyl (5-carboxypentyl)phosphonium bromide | 2.1 mmole, 937 mg | [Br-].C1(=CC=CC=C1)[P+](CCCCCC(=O)O)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 2-napthaldehyde | 1.92 mmole, 300 mg | C1=C(C=CC2=CC=CC=C12)C=O | C11H8O
reactant | potassium t-butoxide | 4.8 mmole, 540 mg | CC(C)([O-])C.[K+]
solvent | DMSO | CS(=O)C | C2H6OS
product | Z-6-(2-naphthyl)hex-5-enoic acid | C1=C(C=CC2=CC=CC=C12)\C=C/CCCC(=O)O | C16H16O2
